* NGSPICE file created from nor2b.ext - technology: sky130A
.subckt nor2b a b vdd vss y
X0 a_116_44# a vdd vdd sky130_fd_pr__pfet_01v8 ad=0.3765 pd=3.11 as=0.38366 ps=3.2116 w=1.255 l=0.15
X1 vdd a_116_44# a_1746_302# vdd sky130_fd_pr__pfet_01v8 ad=0.3057 pd=2.55904 as=0.3 ps=2.6 w=1 l=0.15
X2 vdd a_116_44# a_1746_302# vdd sky130_fd_pr__pfet_01v8 ad=0.3057 pd=2.55904 as=0.3 ps=2.6 w=1 l=0.15
X3 a_116_44# a vss vss sky130_fd_pr__nfet_01v8 ad=0.126 pd=1.44 as=0.12693 ps=1.32114 w=0.42 l=0.15
X4 y b a_1746_302# vdd sky130_fd_pr__pfet_01v8 ad=0.31042 pd=2.624 as=0.3 ps=2.6 w=1 l=0.15
X5 a_116_44# a vss vss sky130_fd_pr__nfet_01v8 ad=0.126 pd=1.44 as=0.12693 ps=1.32114 w=0.42 l=0.15
X6 y b a_1746_302# vdd sky130_fd_pr__pfet_01v8 ad=0.31042 pd=2.624 as=0.3 ps=2.6 w=1 l=0.15
X7 y a_116_44# vss vss sky130_fd_pr__nfet_01v8 ad=0.18379 pd=1.78105 as=0.18133 ps=1.88734 w=0.6 l=0.15
X8 y a_116_44# vss vss sky130_fd_pr__nfet_01v8 ad=0.18379 pd=1.78105 as=0.18133 ps=1.88734 w=0.6 l=0.15
X9 y b a_1746_302# vdd sky130_fd_pr__pfet_01v8 ad=0.31042 pd=2.624 as=0.3 ps=2.6 w=1 l=0.15
X10 y b a_1746_302# vdd sky130_fd_pr__pfet_01v8 ad=0.31042 pd=2.624 as=0.3 ps=2.6 w=1 l=0.15
X11 vdd a_116_44# a_1746_302# vdd sky130_fd_pr__pfet_01v8 ad=0.3057 pd=2.55904 as=0.3 ps=2.6 w=1 l=0.15
X12 a_116_44# a vss vss sky130_fd_pr__nfet_01v8 ad=0.126 pd=1.44 as=0.12693 ps=1.32114 w=0.42 l=0.15
X13 a_116_44# a vdd vdd sky130_fd_pr__pfet_01v8 ad=0.3765 pd=3.11 as=0.38366 ps=3.2116 w=1.255 l=0.15
X14 vdd a_116_44# a_1746_302# vdd sky130_fd_pr__pfet_01v8 ad=0.3057 pd=2.55904 as=0.3 ps=2.6 w=1 l=0.15
X15 y b a_1746_302# vdd sky130_fd_pr__pfet_01v8 ad=0.31042 pd=2.624 as=0.3 ps=2.6 w=1 l=0.15
X16 vss b y vss sky130_fd_pr__nfet_01v8 ad=0.21155 pd=2.2019 as=0.21442 ps=2.07789 w=0.7 l=0.15
X17 vdd a_116_44# a_1746_302# vdd sky130_fd_pr__pfet_01v8 ad=0.3057 pd=2.55904 as=0.3 ps=2.6 w=1 l=0.15
X18 a_116_44# a vdd vdd sky130_fd_pr__pfet_01v8 ad=0.3765 pd=3.11 as=0.38366 ps=3.2116 w=1.255 l=0.15
C0 b vdd 0.72649f
C1 a_116_44# vdd 2.02415f
C2 y vdd 0.51095f
C3 a_1746_302# vdd 2.73663f
C4 a_116_44# b 0.00957f
C5 a vdd 0.47956f
C6 y b 0.38548f
C7 a_1746_302# b 0.11896f
C8 y a_116_44# 0.14199f
C9 a_116_44# a_1746_302# 0.14575f
C10 y a_1746_302# 1.1427f
C11 a a_116_44# 0.20739f
C12 y a 0
C13 a a_1746_302# 0
C14 y vss 2.71217f
C15 b vss 1.35101f
C16 a vss 0.75685f
C17 vdd vss 8.45433f
C18 a_1746_302# vss 0.51612f
C19 a_116_44# vss 2.61355f
.ends